US05773463
(±)cis-1-(4-Benzylphenoxy)-2-methylaminoindane Hydrochloride (E19)
The title compound was prepared in a similar manner to Example 12 from LiAlH4 (320 mg, 8.4 mmol), cis-1-(4-benzylphenoxy)-2-tert-butoxycarbonylaminoindane (700 mg, 1.7 mmol) and tetrahydrofuran (40 ml). After a reaction time of 2.5 h the reaction was worked up as previously described and subjected to column chromatography on silica gel eluting with 2% ethanol in chloroform to afford a colourless oil (438 mg) which was converted to the HCl salt and crystallised to afford the title compound as a white solid. m.p. 222° C. dec. (from methanol-diethyl ether).

reactant | LiAlH4 | 8.4 mmol, 320 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | cis-1-(4-benzylphenoxy)-2-tert-butoxycarbonylaminoindane | 1.7 mmol, 700 mg | C(C1=CC=CC=C1)C1=CC=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC(=O)OC(C)(C)C)C=C1 | C27H29NO3
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | ethanol | C(C)O | C2H6O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (±)cis-1-(4-Benzylphenoxy)-2-methylaminoindane Hydrochloride | Cl.C(C1=CC=CC=C1)C1=CC=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC)C=C1 | InChI=1S/C23H23NO.ClH/c1-24-22-16-19-9-5-6-10-21(19)23(22)25-20-13-11-18(12-14-20)15-17-7-3-2-4-8-17;/h2-14,22-24H,15-16H2,1H3;1H/t22-,23+;/m0./s1
